US04840963
Step E: Preparation of 5-hydroxy-2-sulfamoyl-1H-indole
5-Methoxy-2-sulfamoyl-1H-indole (2.5 gm, 11 mmol) was mixed with pyridine hydrochloride (7.5 gm) and heated neat at 190° C. for 30 minutes. The reaction was cooled to 140° C. and poured onto ice water (25 gm). The mixture was extracted with ethyl acetate (3×100 ml), washed with water (2×50 ml), brine (2×25 ml) and dried (MgSO4). The ethyl acetate was removed under vacuum to yield a brown solid 2.4 gm. The solid was flash chromatographed using silica gel with 95/5 (V/V) chloroform-methanol. The isolated compound was crystallized using chloroform-methanol 95/5 (V/V) to yield a white solid; 628 mg., m.p. 220°-221° C. (dec).

reactant | 5-Methoxy-2-sulfamoyl-1H-indole | 11 mmol, 2.5 gm | COC=1C=C2C=C(NC2=CC1)S(N)(=O)=O | C9H10N2O3S
reactant | pyridine hydrochloride | 7.5 gm | Cl.N1=CC=CC=C1
product | 5-hydroxy-2-sulfamoyl-1H-indole | 2.4 gm | OC=1C=C2C=C(NC2=CC1)S(N)(=O)=O | C8H8N2O3S
